US07951810B2
Step a: [(3aR,4R,6R,6aR)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate
[(3aR,4R,6R,6aR)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methanol (1.000 g, 0.003060 mol), pyridine (495.1 μL, 0.006121 mol), 4-dimethylaminopyridine (0.0748 g, 0.000612 mol) and acetic anhydride (577.5 μL, 0.006121 mol) were stirred in methylene chloride (20 mL) at room temperature for 1 h. The solution was diluted with Methylene chloride, extracted with HCl 1N, dried over NA2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/DCM 0% to 25%) to obtain the product (1.129 g, 84%) as an oil.

reactant | [(3aR,4R,6R,6aR)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methanol | 0.003060 mol, 1.000 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C13H15ClN4O4
reactant | pyridine | 0.006121 mol, 495.1 μL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.006121 mol, 577.5 μL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.000612 mol, 0.0748 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | [(3aR,4R,6R,6aR)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate | 1.129 g, 84% | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl | C15H17ClN4O5
